US09126969B2
5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazol
3 g of 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde and 43 mg of ferric chloride are added to a solution of 3 g of 4-fluoro-5-perhydro-1,4-oxazepin-4-ylbenzene-1,2-diamine in 60 mL of DMF. The reaction medium is stirred at 22° C. for 16 hours. After evaporation, the reaction crude is purified by flash chromatography. The elution is carried out in a 1/1 mixture of cyclohexane/ethyl acetate. 3 g of 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazoleare isolated in the form of a red oil. 1H NMR (400 MHz, DMSO-d6, δ in ppm): from 1.40 to 2.25 (m, 8H); from 3.25 to 3.39 (m partially masked, 4H); 3.70 (m, 1H); 3.78 (m, 4H); 3.99 (m, 1H); 5.59 (dd, J=2.5 and 9.5 Hz, 1H); 7.16 (broad m, 1H); 7.39 (broad d, J=11.5 Hz, 1H); 9.17 (s, 1H); 12.75 (broad m, 1H).

reactant | 4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazole-3-carbaldehyde | 3 g | [N+](=O)([O-])C=1C(=NN(C1)C1OCCCC1)C=O | C9H11N3O4
reactant | 4-fluoro-5-perhydro-1,4-oxazepin-4-ylbenzene-1,2-diamine | 3 g | FC=1C=C(C(=CC1N1CCOCCC1)N)N | C11H16FN3O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-6-perhydro-1,4-oxazepin-4-yl-1H-benzimidazol | FC1=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C=C1N1CCOCCC1 | C20H23FN6O4
